US05525709
Preparation of Palmitic Anhydride
Palmitic acid (512.04 g, 2.00 moles) and acetic anhydride (204.05 g, 2.00 moles) were charged to a two liter reaction flask fitted with an overhead stirrer, thermometer, condenser and nitrogen inlet. The mixture was heated gently with stirring to allow the solid palmitic acid to melt (61° C. to 64° C.). Heating was continued until the reflux temperature had been reached (147° C.), this temperature was maintained for a period of one hour. The resultant mixture was cooled to room temperature to allow a light yellow solid to form, this was slurried in cyclohexane (100 ml), filtered and recrystallised from petroleum ether 60-80. The recrystallised wet solid was placed in a vacuum oven at 40° C. until dry of residual acetic acid. The resultant white powdery solid was stored under vacuum in the presence of silica gel. The yield of palmitic anhydride was 458.49 g which represented a 92.8% chemical yield.

reactant | Palmitic acid | 2.00 moles, 512.04 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | acetic anhydride | 2.00 moles, 204.05 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | Palmitic Anhydride | C(CCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCC)=O | C32H62O3
